US05750471
Step A: 7-Chloro-1-ethyl-5-fluoro-1,3-dihydro-4-isocyanato-2,1-benzisothiazole 2,2-dioxide
To a mixture of 7-chloro-1-ethyl-5-fluoro-1,3-dihydro-2,1-benzisothiazol-4-amine-2,2-dioxide (1.30 g, 4.91 mmol), diphosgene (1.17 g, 1.2 eq) in p-dioxane (20 mL), triethylamine (0.6 g, 1.2 eq) was added and the resulting reaction mixture was heated at reflux for overnight. The precipitated triethylamine hydrochloride was filtered off and the solvents were removed in vacuo and dried to give the title compound of Step A as a brown semisolid. 1H NMR (CDCl3, 400 MHz): δ7.21 (d,1H, J=9.5 Hz), 4.28 (s,2H), 3.94 (q,2H), 1.22 (t,3H, J=7.5 Hz).

reactant | 7-chloro-1-ethyl-5-fluoro-1,3-dihydro-2,1-benzisothiazol-4-amine-2,2-dioxide | 4.91 mmol, 1.30 g | ClC=1C=C(C(=C2CS(N(C21)CC)(=O)=O)N)F | C9H10ClFN2O2S
reactant | diphosgene | 1.17 g, 1.2 eq | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | triethylamine | 0.6 g, 1.2 eq | C(C)N(CC)CC | C6H15N
solvent | p-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 7-Chloro-1-ethyl-5-fluoro-1,3-dihydro-4-isocyanato-2,1-benzisothiazole 2,2-dioxide | ClC1=CC(=C(C=2CS(N(C21)CC)(=O)=O)N=C=O)F | C10H8ClFN2O3S
